US08193378B2
To a solution of 2-hydroxy-4-[(2-methoxy-4-propylphenoxy)methyl]benzaldehyde (120 mg) in dioxane (2.4 mL) were added K2CO3 (55.2 mg) and acrolein (0.267 mL) at 25° C. The reaction mixture was warmed to 100° C., followed by stirring at 100° C. for 15 hours. The reaction mixture was left to be cooled to 25° C., and then filtered through celite, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 80:20) to obtain 7-[(2-methoxy-4-propylphenoxy)methyl]-2H-chromene-3-carbaldehyde (104.2 mg) as a colorless liquid.

reactant | 2-hydroxy-4-[(2-methoxy-4-propylphenoxy)methyl]benzaldehyde | 120 mg | OC1=C(C=O)C=CC(=C1)COC1=C(C=C(C=C1)CCC)OC | C18H20O4
reactant | K2CO3 | 55.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acrolein | 0.267 mL | C(=O)C=C | C3H4O
solvent | dioxane | 2.4 mL | O1CCOCC1 | C4H8O2
product | 7-[(2-methoxy-4-propylphenoxy)methyl]-2H-chromene-3-carbaldehyde | 104.2 mg | COC1=C(OCC2=CC=C3C=C(COC3=C2)C=O)C=CC(=C1)CCC | C21H22O4
